US08222266B2
4-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone dihydrochloride (E4)
A solution of 1-(4-chloro-butyl)-4-(6-methyl-pyridin-2-yl)-1H-pyrimidin-2-one (Prep17, 48 mg, 0.17 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 38 mg, 0.17 mmol), KI (2 mg) and DIPEA (66 mg, 0.51 mmol) in absolute EtOH (2 ml) was placed in a microwave oven and irradiated at 125° C. for 13 hours. The solvent was removed under vacuum and the residue was redissolved in DCM and filtered. The filtrate was stirred in the presence of PS-isocyanate (350 mg) for 3 hours. The mixture was filtered and the solvent removed under vacuum. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (99-1-0.1) to give the title compound (17 mg, 4% yield) as a free base.

reactant | 1-(4-chloro-butyl)-4-(6-methyl-pyridin-2-yl)-1H-pyrimidin-2-one | 0.17 mmol, 48 mg | ClCCCCN1C(N=C(C=C1)C1=NC(=CC=C1)C)=O | C14H16ClN3O
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.17 mmol, 38 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | DIPEA | 0.51 mmol, 66 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 2 ml | CCO | C2H6O
product | 4-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2(1H)-pyrimidinone dihydrochloride | 17 mg, 4% yield | Cl.Cl.CC1=CC=CC(=N1)C1=NC(N(C=C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C26H27F3N4O.2ClH/c1-18-5-4-6-22(30-18)23-11-14-33(24(34)31-23)13-3-2-12-32-16-21-15-25(21,17-32)19-7-9-20(10-8-19)26(27,28)29;;/h4-11,14,21H,2-3,12-13,15-17H2,1H3;2*1H/t21-,25+;;/m0../s1
